US04532344
To a 2 L Erlenmeyer flask was added 3-fluoranthenecarbaldehyde (11.51 g, 50 mmol) 2-methyl-2-amino-1,3-propanediol (Aldrich, 5.52 g, 52.5 mmol), p-toluenesulfonic acid.H2O (Eastman Kodak Co., Rochester, NY, 14650, 0.1 g, 0.5 mmol), and PhCH3 (500 mL). The mixture was warmed to reflux for a few minutes and H2O (2-3 mL) was driven off. The resulting golden colored solution was allowed to cool to RT, diluted with absolute EtOH (500 mL) and stirred overnight. NaBH3CN (Aldrich, 95%, 1.57 g, 25 mmol) was added to the reaction. After the NaBH3CN dissolved, an indicator (bromocresol green, Eastman, 5 mg) was added. To the resulting blue solution was added 5 drops of 1M solution of HCl gas in absolute EtOH every 15 minutes. After 3 days the indicator turned green then yellow and voluminous white precipitate was present in the flask. To the flask was then added 1M HCl gas (10 mL) in absolute EtOH, and H2O (10 mL). The liquid was then removed by rotary evaporation to give a yellow solid. The solid was shaken with 20% HCl solution (500 mL) and collected by filtration. The resulting solid was washed with additional 20% HCl solution (250 mL) and then with CH 2 Cl2 (4×250 mL), pressed and then sucked dry. The slightly yellow solid was then recrystallized from CH3OH/Et2O to give 11.80 g (66%) of 2-((3-fluoranthenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride mp 262°-265° (dec), (,H,Cl,N).

reactant | 3-fluoranthenecarbaldehyde | 50 mmol, 11.51 g | C1=CC(=C2C=CC=C3C4=CC=CC=C4C1=C23)C=O | C17H10O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaBH3CN | 25 mmol, 1.57 g | [BH3-]C#N.[Na+]
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | HCl | Cl | ClH
reactant | HCl | 1M, 10 mL | Cl | ClH
reactant | HCl | 500 mL | Cl | ClH
reactant | EtOH | 500 mL | CCO | C2H6O
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 2-3 mL | O | H2O
solvent | PhCH3 | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 0.5 mmol, 0.1 g | O | H2O
product | 2-((3-fluoranthenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride | 11.80 g, 66% | Cl.C1=CC(=C2C=CC=C3C4=CC=CC=C4C1=C23)CNC(CO)(CO)C | InChI=1S/C21H21NO2.ClH/c1-21(12-23,13-24)22-11-14-9-10-19-17-6-3-2-5-16(17)18-8-4-7-15(14)20(18)19;/h2-10,22-24H,11-13H2,1H3;1H
